US09376464B2
To NIPAM (10.06 g, 88.9 mmol) and N-acryloxysuccinimide (NAS) (380 mg, 2.2 mmol) under nitrogen was added inhibitor free THF (25 ml) and toluene (25 ml). Nitrogen was bubbled through the solution for 5 minutes. The stirred reaction mixture was heated at 50° C. and free radical initiator 1,1′-azobis(cyanocyclohexane) VAZO® 88 was added (30 mg, 0.12 mmol, 0.3% by wt). The reaction was heated to 71-73° C. over 15 minutes. The reaction was further heated at this temperature for 18 hours. After this time, the solution appeared more viscous. The reaction mixture was cooled to ambient and a TLC test indicated a small amount of monomer present. The polymer was precipitated by the addition of hexane (100 ml). The white polymer is filtered off and dried under vacuum (20 mbar) to yield p(NIPAM-NAS) copolymer. (10.01 g).

reactant | NIPAM | 88.9 mmol, 10.06 g | CC(C)NC(=O)C=C | C6H11NO
reactant | N-acryloxysuccinimide | 2.2 mmol, 380 mg | C(C=C)(=O)ON1C(CCC1=O)=O | C7H7NO4
reactant | THF | 25 ml | C1CCOC1 | C4H8O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | NIPAM NAS | CC(C)NC(=O)C=C.C(C=C)(=O)ON1C(CCC1=O)=O | InChI=1S/C7H7NO4.C6H11NO/c1-2-7(11)12-8-5(9)3-4-6(8)10;1-4-6(8)7-5(2)3/h2H,1,3-4H2;4-5H,1H2,2-3H3,(H,7,8)
